US06797823B1
N-[2-Chloro-4-({7-methoxy-6-[3-(4methyl-piperazino)propoxy]-4-quinazolinyl}oxy)phenyl]-N′-propylurea
N-{2-Chloro-4-[(6-hydroxy-7-methoxy-4-quinazolinyl)oxy]phenyl}-N′-propylurea (500 mg), potassium carbonate (857 mg), and 1,3-dibromopropane (0.5 ml) were dissolved in N,N-dimethylformamide (5 ml), and the solution was stirred at room temperature for 3 hr. The solvent was removed by distillation under the reduced pressure. Water was added to the residue, and the mixture was extracted with chloroform/2-propanol (4/1). The organic layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was washed with ether to give 451 mg (yield 71%) of N-(4-{[6-(3-bromopropoxy)-7-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl}-N′-propylurea. N-(4-{[6-(3-Bromopropoxy)-7-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl}-N′-propylurea (50 mg), potassium carbonate (40 mg), and N-methylpiperazine (50 μl) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at room temperature overnight. The solvent was removed by distillation under the reduced pressure. A saturated aqueous sodium hydrogencarbonate solution was added to the residue, and the mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel by development with chloroform/methanol to give 20 mg (yield 44%) of the title compound.

reactant | N-(4-{[6-(3-Bromopropoxy)-7-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl}-N′-propylurea | 50 mg | BrCCCOC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NCCC)Cl | C22H24BrClN4O4
reactant | potassium carbonate | 40 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpiperazine | 50 μl | CN1CCNCC1 | C5H12N2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-[2-Chloro-4-({7-methoxy-6-[3-(4methyl-piperazino)propoxy]-4-quinazolinyl}oxy)phenyl]-N′-propylurea | 20 mg, yield 44% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OCCCN1CCN(CC1)C)OC)NC(=O)NCCC | C27H35ClN6O4
